US07816522B2
(187b) 3-Benzyl-5-hydrazino-3H-imidazole-4-carboxylic acid ethyl ester
To 50 ml of a dichloromethane solution containing 3.7 g of 3-benzyl-5-(N′-t-butoxycarbonylhydrazino)-3H-imidazole-4-carboxylic acid ethyl ester, 20 ml of trifluoroacetic acid was added. The resulting mixture was stirred at room temperature for 4 hours, and 100 ml of toluene was added thereto. The mixture was concentrated under reduced pressure. The residue was dissolved in 400 ml of ethyl acetate, and the solution was washed with 200 ml of a 2 N sodium hydroxide solution. The aqueous layer was extracted with 200 ml of ethyl acetate, and the organic layers were combined and dried over anhydrous magnesium sulfate. The desiccating agent was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (methanol-ethyl acetate) to give the title compound (1.65 g) as a light yellow solid.

reactant | dichloromethane | 50 ml | ClCCl | CH2Cl2
reactant | 3-benzyl-5-(N′-t-butoxycarbonylhydrazino)-3H-imidazole-4-carboxylic acid ethyl ester | 3.7 g | C(C)OC(=O)C=1N(C=NC1NNC(=O)OC(C)(C)C)CC1=CC=CC=C1 | C18H24N4O4
reactant | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 3-Benzyl-5-hydrazino-3H-imidazole-4-carboxylic acid ethyl ester | 1.65 g | C(C)OC(=O)C=1N(C=NC1NN)CC1=CC=CC=C1 | C13H16N4O2
